US06444685B1
N-(2-Hydroxy-5-{(1R)-1-hydroxy-2-[(1-{4-[(4-methylpiperazin-1-yl)sulfonyl]phenyl}piperidin-4-yl)amino]ethyl}phenyl)methanesulfonamide
The title compound was prepared from N-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide, and 1-{4-[(4-methyl-1-piperazinyl)sulfonyl]phenyl}-4-piperidinone in substantially the same manner, as described in Example 50. The product was obtained as a brown solid; mp: 89-91° C.; 1H NMR (400 MHz, DMSO-d6): δ 1.53-1.65 (m, 2H), 2.06-2.16 (m, 2H), 2.82-2.89 (m, 2H), 2.94 (s, 3H), 3.09-3.13 (m, 2H), 3.70 (brs, 2H), 4.01-4.05 (m, 2H), 4.76-4.79 (d, 2H), 6.11 (brs, 1H), 6.88-6.90 (d, 2H), 7.06-7.13 (m, 4H), 7.25 (s, 1H), 7.52-7.55 (d, 2H), 8.60 (brs, 1H); 8.58 (brs, 1H); 8.75 (s, 1H), 9.64 (brs, 1H), 10.00 (s, 1H); MS m/z 568 (M+H)+; Analysis for C25H37N5O6S2×0.4 hexane×0.52 H2O Calc'd: C, 42.07; H, 4.93; N, 7.34; Found: C, 42.27; H, 4.60; N, 6.70.

reactant | N-{5-[(1R)-2-amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
reactant | 1-{4-[(4-methyl-1-piperazinyl)sulfonyl]phenyl}-4-piperidinone | CN1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C16H23N3O3S
reactant | hexane | CCCCCC | C6H14
solvent | H2O | O | H2O
product | N-(2-Hydroxy-5-{(1R)-1-hydroxy-2-[(1-{4-[(4-methylpiperazin-1-yl)sulfonyl]phenyl}piperidin-4-yl)amino]ethyl}phenyl)methanesulfonamide | OC1=C(C=C(C=C1)[C@H](CNC1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)O)NS(=O)(=O)C | C25H37N5O6S2
